US06156739
8-Hydroxy-2-(4'-aminophenyl)quinazolin-4-[3 H]-one
8-Hydroxy-2-(4'-nitrophenyl)quinazolin-4-[3 H]-one, prepared from 3-methoxy-2-aminobenzamide as in Example 5, (50 mg, 0.18 mmol) was suspended in methanol (20 ml) with palladium-carbon catalyst (20 mg) and the reaction vessel was placed under the atmosphere of hydrogen at ambient temperature and pressure. The reaction mixture changed from a yellow suspension to a clear, colourless solution, whereupon the catalyst was removed by filtration through Celite™. The solvent was removed under vacuum to leave a cream pale brown solid, which was recystallised from aq. methanol (25.7 mg, 0.1 mmol, 57%), m.p. >230° C.

reactant | 8-Hydroxy-2-(4'-nitrophenyl)quinazolin-4-[3 H]-one | OC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H9N3O4
reactant | 3-methoxy-2-aminobenzamide | COC=1C(=C(C(=O)N)C=CC1)N | C8H10N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
solvent | methanol | 0.1 mmol, 25.7 mg | CO | CH4O
product | 8-Hydroxy-2-(4'-aminophenyl)quinazolin-4-[3 H]-one | OC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)N)=O | C14H11N3O2
